US05258388
a) Preparation of Cyclohexyl Hydrogen Phenylmalonate
Phenylmalonic acid (13.5 g, 0.07 mol) in dry ether (40 mL) was treated with thionyl chloride (8.92 g, 5.4 mL, 0.07 mol) and one drop of N,N-dimethylformamide. The mixture was heated at 40°-50° C. for 3 hours. The clear solution was distilled under vacuum. The oily residue was redissolved in dry ether (40 mL), the solution was treated with cyclohexyl alcohol (0.075 mol, 7.9 mL) and refluxed for 2 hours. The mixture was worked up as before to give an oily product which crystallized on standing. Recrystallization was carried out from a benzene-petroleum ether (40-60°) mixture to give a white crystalline product.

reactant | Phenylmalonic acid | 0.07 mol, 13.5 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | thionyl chloride | 0.07 mol, 5.4 mL, 8.92 g | S(=O)(Cl)Cl | Cl2OS
reactant | cyclohexyl alcohol | 0.075 mol, 7.9 mL | C1(CCCCC1)O | C6H12O
solvent | ether | 40 mL | CCOCC | C4H10O
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | Cyclohexyl Hydrogen Phenylmalonate | C1(=CC=CC=C1)C(C(=O)OC1CCCCC1)C(=O)O | C15H18O4
